US20010023293A1
2 g of 2-(benzotriazole-2-yl)-4-(1,1,3,3-tetramethylbutyl)-6-(1 -hexen-3-yl)-phenol and a trace of “Lindlar catalyst” (Fluka) in 25 ml of hexane was hydrogenated for 5 hours under normal hydrogen pressure. Then the reaction mixture was filtered and concentrated to yield 2 g of 2-(benzotriazole-2-yl)-4-(1,1,3,3-tetramethylbutyl)-6-(3-hexyl)-phenol as an orange liquid.

reactant | 2-(benzotriazole-2-yl)-4-(1,1,3,3-tetramethylbutyl)-6-(1 -hexen-3-yl)-phenol | 2 g | N=1N(N=C2C1C=CC=C2)C2=C(C(=CC(=C2)C(CC(C)(C)C)(C)C)C(C=C)CCC)O | C26H35N3O
catalyst | Lindlar catalyst | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
solvent | hexane | 25 ml | CCCCCC | C6H14
product | 2-(benzotriazole-2-yl)-4-(1,1,3,3-tetramethylbutyl)-6-(3-hexyl)-phenol | 2 g | N=1N(N=C2C1C=CC=C2)C2=C(C(=CC(=C2)C(CC(C)(C)C)(C)C)C(CC)CCC)O | C26H37N3O
